US05102897
A 12.5% solution of phosgene in toluene (8.6 mL, 9.6 mmol) is added dropwise to a -78° C. solution of 3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl hydrazinecarbodithioate (1.5 g, 4.8 mmol) and N,N-diisopropylethylamine (3.3 mL, 19.2 mmol) in tetrahydrofuran (150 mL). The reaction mixture is stirred for 10 minutes then poured into a separatory funnel containing ethyl acetate and water. The pH of the aqueous phase is adjusted to 3 with 1N hydrochloric acid. The organic phase is washed twice with water, then with a saturated solution of sodium bicarbonate followed by brine. Drying over magnesium sulfate and evaporation of the solvents gives a solid which is crystallized twice from isopropyl ether/hexane to afford 0.7 g (43%) of 5-[[3,5-bis(1,1-dimethylethyl) -4-hydroxyphenyl]thio]-1,3,4-thiadiazol-2(3H)-one, mp 194°-197° C. (dec).

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 9.6 mmol, 8.6 mL | C1(=CC=CC=C1)C | C7H8
reactant | 3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl hydrazinecarbodithioate | 4.8 mmol, 1.5 g | N(N)C(=S)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C15H24N2OS2
reactant | N,N-diisopropylethylamine | 19.2 mmol, 3.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[[3,5-bis(1,1-dimethylethyl) -4-hydroxyphenyl]thio]-1,3,4-thiadiazol-2(3H)-one | 0.7 g, 43% | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC1=NNC(S1)=O | C16H22N2O2S2
